US05321047
4-[N,N-Bis-(4-chlorobenzyl) amino]butyramide
A solution of 4-[N,N-Bis-(4-chlorobenzyl)amino]butyronitrile (2.0 g) prepared according to Example 1 in dichloromethane (10 ml) was cooled in ice, then treated with the phase-transfer catalyst nBu4.NHSO4 (0.5 g), 20% aq NaOH (3.2 ml) and 30% H2O2 (4.0 ml). The mixture was stirred vigorously at 0° for about half an hour, then at room temperature for 23 hours. After dilution with dichloromethane the layers were separated, and the organic phase washed with water and with dil. aq. NaHSO3, then dried (MgSO4). Filtration and evaporation gave a syrup (2.26 g) which was flash-chromatographed on neutral alumina eluted with neat toluene (to remove starting material (0.3 g) and then with 10% EtOH-toluene to recover the product (1.62 g). Repeat chromatography on silica eluted with 2-5% EtOH-toluene gave the title compound (1.55 g; 73.6%) as a syrup which set solid on standing. The resulting crystals had m.p. 66°-76°.

reactant | 4-[N,N-Bis-(4-chlorobenzyl)amino]butyronitrile | 2.0 g | ClC1=CC=C(CN(CC2=CC=C(C=C2)Cl)CCCC#N)C=C1 | C18H18Cl2N2
reactant | NaOH | 3.2 ml | [OH-].[Na+]
reactant | H2O2 | 4.0 ml | OO | H2O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-[N,N-Bis-(4-chlorobenzyl) amino]butyramide | 2.26 g | ClC1=CC=C(CN(CC2=CC=C(C=C2)Cl)CCCC(=O)N)C=C1 | C18H20Cl2N2O
